US07465726B2
Benzyl 2,2-dimethyl-3-(4-methylpiperazin-1-yl)propanoate
The procedure for benzyl-2,2-dimethyl-3-piperidin-1-ylpropanoate was followed except for replacing piperidine with 1-methylpiperazine. Purification via silica gel chromatography (5% EtOAc in hexane) afforded the title compound as a yellow oil. MS (ES+): m/z: 291.20 (100) [MH+]. HPLC: tr=2.08 min (ZQ2000: polar—5 min). 1H NMR (400 MHz, CDCl3): δ=1.18 (s, 6H), 2.09 (s, 3H), 2.23-2.33 (m, 4H), 2.39-2.50 (m, 6H), 5.11 (s, 2H) 7.31-7.36 (m, 5H)

reactant | benzyl-2,2-dimethyl-3-piperidin-1-ylpropanoate | C(C1=CC=CC=C1)OC(C(CN1CCCCC1)(C)C)=O | C17H25NO2
reactant | 1-methylpiperazine | CN1CCNCC1 | C5H12N2
product | Benzyl 2,2-dimethyl-3-(4-methylpiperazin-1-yl)propanoate | CC(C(=O)OCC1=CC=CC=C1)(CN1CCN(CC1)C)C | C17H26N2O2
